US05374641
The solution of 220 mg of 4-[3-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)-2-propyl]benzaldehyde and 420 mg of (carboethoxyethylidene)triphenylphosphorane in 20 ml of chloroform in solution was stirred under heating for five hours. To the reaction mixture was added water, followed by separation of the organic phase, which was then extracted with methylene chloride. After washing in saturated aqueous sodium chloride solution, the product was then dried over magnesium sulfate, followed by evaporation of the solvent. The residue obtained was subjected to preparative TLC on silica gel, which was developed with methylene chloride three times, to obtain 186 mg of ethyl 4-[3-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)-2-propyl]-α-methylcinnamate. The spectrometric data thereof supports the structure of [46] as follows.

reactant | 4-[3-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)-2-propyl]benzaldehyde | 220 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCC(CC=1C=NC=CC1)C1=CC=C(C=O)C=C1 | C21H19ClN2O3S
reactant | (carboethoxyethylidene)triphenylphosphorane | 420 mg | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-[3-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)-2-propyl]-α-methylcinnamate | 186 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCC(CC=1C=NC=CC1)C1=CC=C(C=C(C(=O)OCC)C)C=C1 | C26H27ClN2O4S
